US06653476B2
(S)-1-{[-3-Chloro-4-(4-methoxyphenyl)-7-oxido-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione
To a solution of succinic anhydride (303.25 g) in DMF (3.5.L) was added (S)-2-(aminomethyl)-3-chloro-4-(4-methoxyphenyl)-7-oxido-5,8-dihydro-6H-thiopyrano-[4′,3′:4,5]thieno[2,3-b]pyridine (1134 g) and the mixture was stirred for 1 hour. To the mixture was slowly added carbonyldiimidazole (935.5 g), and stirred at room temperature for 22 hours and further at 36 to 38° C. for 5 hours. The reaction mixture was added dropwise to water (20 L). After stirring for 2.5 hours, crystals deposited were filtered off and washed with water (1277 g, 86.4%). This product was dissolved in a mixture of acetonitrile (8.7 L) and water (2.9 L) and treated with active carbon. Water (45 L) was added and crystals were filtered off. The crystals were suspended in acetone (2.9 L), stirred at 48 to 52° C. for 1 hour and cooled to room temperature. Crystals were filtered off to obtain the titled compound (997 g). Melting point 217-218.5° C. (decomp.) [α]D20−123.63 (c=0.00490, CHCl3).

reactant | succinic anhydride | 303.25 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | (S)-2-(aminomethyl)-3-chloro-4-(4-methoxyphenyl)-7-oxido-5,8-dihydro-6H-thiopyrano-[4′,3′:4,5]thieno[2,3-b]pyridine | 1134 g | NCC1=C(C(=C2C(=N1)SC1=C2CC[S@@](C1)=O)C1=CC=C(C=C1)OC)Cl | C18H17ClN2O2S2
reactant | carbonyldiimidazole | 935.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 20 L | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-1-{[-3-Chloro-4-(4-methoxyphenyl)-7-oxido-5,8-dihydro-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridin-2-yl]methyl}-2,5-pyrrolidinedione | 997 g | ClC=1C(=C2C(=NC1CN1C(CCC1=O)=O)SC1=C2CC[S@@](C1)=O)C1=CC=C(C=C1)OC | C22H19ClN2O4S2
